US04567174
3-Dodecylaminopropylamine dihydrochloride (15 g.) sodium dicyanamide (9.47 g.) and butanol (250 ml.) were heated under reflux for 4 hours. The mixture was allowed to cool, and filtered, and the solvent was evaporated under reduced pressure. The residue was suspended in toluene and evaporated to small volume under reduced pressure to yield a pale oil, which was purified by chromatography on silica gel, using a gradient elution of isopropanol/methylene dichloride starting at 1:9, and then eluting the required product using a ratio of 1:4. The product 1-(3-cyano-guanidino)-3-(3-cyano-1-dodecylguanidino)propane was obtained as a solid m.p. 126°-129°.

reactant | 3-Dodecylaminopropylamine dihydrochloride | 15 g | Cl.Cl.C(CCCCCCCCCCC)NCCCN
reactant | sodium dicyanamide | 9.47 g | [N-](C#N)C#N.[Na+]
solvent | butanol | 250 ml | C(CCC)O | C4H10O
product | 1-(3-cyano-guanidino)-3-(3-cyano-1-dodecylguanidino)propane | C(#N)NC(NCCCN(C(=N)NC#N)CCCCCCCCCCCC)=N | C19H36N8
